US05310634
(3) 3-(Methoxycarbonylamino)-N,N-diethylaniline
A mixture of 4.5 g of 3-(methoxycarbonylamino)-aniline, 21.6 g of ethyl iodide, 14.4 g of sodium carbonate, and 90 ml of N,N-diethylacetamide was stirred for 1 hour at 110° C. The reaction mixture obtained was poured into 300 ml of water followed by stirring well and extracted with ethyl acetate. The extract was washed with water, dried by Glauber's salt, and the solvent was distilled off using a rotary evaporator to provide 6.0 g (yield: 100%) of an oily product.

reactant | 3-(methoxycarbonylamino)-aniline | 4.5 g | COC(=O)NC=1C=C(N)C=CC1 | C8H10N2O2
reactant | ethyl iodide | 21.6 g | C(C)I | C2H5I
reactant | sodium carbonate | 14.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-diethylacetamide | 90 ml | C(C)N(C(C)=O)CC | C6H13NO
solvent | water | 300 ml | O | H2O
product | 3-(Methoxycarbonylamino)-N,N-diethylaniline | 6.0 g, yield: 100% | COC(=O)NC=1C=C(N(CC)CC)C=CC1 | C12H18N2O2
